US05068325
b) 2-Amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4 d]azepine-dihydrobromide
214 g (0.78 mol) of 5-bromo-hexahydro-4H-azepin-4-one-hydrobromide are added to 59.7 g (0.78 mol) of thiourea in 1.6 1 of anhydrous ethanol, with stirring, at ambient temperature and the mixture is then refluxed for 3.5 hours. The reaction mixture is left to stand overnight, whilst being cooled with ice, and is filtered through a glass frit. The filter cake is washed with about 0.2 1 of ice cold ethanol and with about 0.2 1 of ether and then dried at 80° C. over calcium chloride in a circulating air dryer. Yield: 194 g (75% of theory), Melting point: 270°-280° C. (decomp.).

reactant | 5-bromo-hexahydro-4H-azepin-4-one-hydrobromide | 0.78 mol, 214 g | Br.BrC1C(CCNCC1)=O
reactant | thiourea | 0.78 mol, 59.7 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4 d]azepine-dihydrobromide | Br.Br.NC=1SC=2CCNCCC2N1 | InChI=1S/C7H11N3S.2BrH/c8-7-10-5-1-3-9-4-2-6(5)11-7;;/h9H,1-4H2,(H2,8,10);2*1H
